2125-06-19 10:36:00 Physician Attending Progress Note
Chief Complaint: Fever, abdominal pain, hypotension, acidosis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   ERCP yesterday did not show obstruction of the biliary system.
   Continues to have abdominal pain and bands persist on WBC differential.
   Still requiring intermittent fluid boluses to sustain adequate blood
   pressure; urine output acceptable this AM, creat normal. Alk phos is
   trending down.
   Oxygen saturation acceptable on relatively small amount of supplemental
   oxygen.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2125-6-18**] 05:40 PM
 ERCP - At [**2125-6-18**] 06:23 PM
 EKG - At [**2125-6-18**] 07:30 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-19**] 12:43 AM
   Metronidazole - [**2125-6-19**] 07:00 AM
   Vancomycin - [**2125-6-19**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-6-18**] 10:00 PM
   Pantoprazole (Protonix) - [**2125-6-19**] 08:00 AM
   Haloperidol (Haldol) - [**2125-6-19**] 08:20 AM
   Other medications:
   fentanyl patch, MVI, thiamine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-19**] 10:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 121 (120 - 153) bpm
   BP: 126/88(96) {84/68(73) - 137/98(104)} mmHg
   RR: 21 (9 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  3,839 mL
                                                                  4,837 mL
   PO:
             TF:
   IVF:
                                                                  3,839 mL
                                                                  4,837 mL
   Blood products:
   Total out:
                                                                    225 mL
                                                                    600 mL
   Urine:
                                                                    225 mL
                                                                    375 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,614 mL
                                                                  4,237 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: 7.39/24/78.[**Numeric Identifier 274**]/18/-8
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, Dry oral mucosa
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic), JVP 7-8 cm
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , Dullness : Right
   base), (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: ,
   No(t) Wheezes : , Diminished: Right base, No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent edema, Left: Absent edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Not assessed, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.0 g/dL
   133 K/uL
   163 mg/dL
   0.7 mg/dL
   18 mEq/L
   3.6 mEq/L
   22 mg/dL
   110 mEq/L
   138 mEq/L
   30.7 %
   8.5 K/uL
        [image002.jpg]
                             [**2125-6-18**]  05:53 PM
                             [**2125-6-18**]  10:20 PM
                             [**2125-6-19**]  03:44 AM
   WBC
   9.7
   9.3
   8.5
   Hct
   33.0
   33.1
   30.7
   Plt
   138
   136
   133
   Cr
   1.0
   0.8
   0.7
   TCO2
   15
   Glucose
   111
   109
   163
   Other labs: PT / PTT / INR:17.7/32.2/1.6, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:421/2.1, Amylase / Lipase:32/23,
   Differential-Neuts:80.0 %, Band:11.0 %, Lymph:4.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:2.7 mmol/L, Albumin:2.1 g/dL, LDH:342 IU/L,
   Ca++:7.0 mg/dL, Mg++:1.5 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR (supine) - opacity over right hemithorax probably
   representing layering of large right pleural effusion
   Assessment and Plan
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ABDOMINAL PAIN
   FEVER
   ANEMIA
   HYPOTENSION
   Patient continues to have abdominal pain without evidence of obstuction
   on ERCP. With alk phos coming down, possible that the patient passed a
   stone. C diff is positive from S [**Hospital **] hospital and CT this AM suggests
   thickening of bowel wall. Will consult surgical service.
   Metabolic acidosis likely due to several factors: small anion gap
   (given low albumin), bicarb losses in stool, and dilution of bicarb
   with normal saline fluids.
   Dyspnea may be due to large effusions, need to compensate for metabolic
   acidosis, and possibly some capillary leak due to low albumin;
   stimulation of stretch receptors in atelectatic lung may also be
   contributing. Gas exchange is good. If symptoms worsen, consider
   thoracentesis. Pleural effusions are chronic, not likely infected. If
   tapped, will need to watch for re-expansion pulmonary edema.
   BP has been more stable, although tachycardia continues. Continue
   fluids as needed.
   ICU Care
   Nutrition: Consider TPN
   Glycemic Control:  Initiate sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   20 Gauge - [**2125-6-18**] 05:46 PM
   18 Gauge - [**2125-6-18**] 11:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2125-06-20 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - intubed for resp distress and fatigue
   - received 8L of IVF
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-20**] 12:00 AM
   Metronidazole - [**2125-6-20**] 05:34 AM
   Vancomycin - [**2125-6-20**] 05:35 AM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-6-19**] 08:20 AM
   Midazolam (Versed) - [**2125-6-19**] 06:10 PM
   Propofol - [**2125-6-19**] 06:12 PM
   Fentanyl - [**2125-6-19**] 06:40 PM
   Pantoprazole (Protonix) - [**2125-6-19**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-19**] 10:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-20**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.4
   HR: 120 (117 - 153) bpm
   BP: 103/71(79) {92/67(73) - 147/99(104)} mmHg
   RR: 14 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                 15,723 mL
                                                                  1,797 mL
   PO:
             TF:
   IVF:
                                                                 15,655 mL
                                                                  1,488 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                    510 mL
   Urine:
                                                                    850 mL
                                                                    510 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 13,648 mL
                                                                  1,287 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 19 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.42/32/122/21/-2
   Ve: 8.9 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General: Alert, appears older than stated age, oriented to person, not
   place or time
   HEENT: Sclera mildly icteric, dry MM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, though [**Month (only) 202**] BS at bases right
   than left.
   CV: RRR, no murmurs, rubs, gallops appreciated
   Abdomen: soft, mildly tender over epigastrium and left lower quadrant,
   bowel sounds present, no rebound tenderness or guarding
   Ext: cool, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   111 K/uL
   9.3 g/dL
   114 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.2 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   28.7 %
   6.6 K/uL
        [image002.jpg]
   [**2125-6-20**] at 3:42am.
                             [**2125-6-18**]  05:53 PM
                             [**2125-6-18**]  10:20 PM
                             [**2125-6-19**]  03:44 AM
                             [**2125-6-19**]  12:02 PM
                             [**2125-6-19**]  05:44 PM
                             [**2125-6-19**]  05:58 PM
                             [**2125-6-20**]  01:28 AM
                             [**2125-6-20**]  03:42 AM
   WBC
   9.7
   9.3
   8.5
   8.6
   6.6
   Hct
   33.0
   33.1
   30.7
   31.6
   28.7
   Plt
   138
   136
   133
   144
   111
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.4
   TCO2
   15
   22
   21
   Glucose
   111
   109
   163
   140
   125
   114
   Other labs: PT / PTT / INR:17.8/150.0/1.6, CK / CKMB /
   Troponin-T:42/3/, ALT / AST:22/31, Alk Phos / T Bili:368/1.9, Amylase /
   Lipase:23/23, Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL,
   LDH:446 IU/L, Ca++:6.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   .
   UCx
 NGTD
   .
   BCx
 NGTD
   .
   MRSA
 pending
   .
   C. diff
 negative
   .
   [**2125-6-19**] CT [**Last Name (un) **]:
   1. Diffuse nonspecific bowel wall thickening of the distal small bowel
   without evidence of small bowel obstruction. This might be secondary to
   a
   inflammatory or infectious etiology. There is no evidence of ischemic
   bowel
   with widely patent celiac artery, SMA, and [**Female First Name (un) **].
   2. Normal appearance of the colon without evidence of colitis or toxic
   megacolon.
   3. Large bilateral pleural effusions with associated atelectasis.
   4. Severe retroperitoneal and mesenteric lymphadenopathy.
   5. Multiple sclerotic bony lesions in the vertebral bodies and the
   iliac
   wings bilaterally, suspicious for metastases given known history of
   colon
   cancer.
   6. Pneumobilia, status post ERCP.
   .
   Assessment and Plan
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Leukocytosis: Pt presented with leukocytosis, SOB, diarrhea and LFTs
   suggestive of worsening obstructive cholestasis.  Now s/p ERCP with
   replacemt of stent but no clear evidence of prior stent obstruction.
   LFTs trending down and pt has remained afebrile. He received
   levo/flagyl and 4-5L of IVF prior to transfer.  He was notably Cdiff
   positive and has had >1L liquid stool output since arrival to IVU.  He
   is afebrile and mildly confused, complaining of mild abd pain thought
   denying SOB. Bandemia initially resolved on repeat CBC, now recurrent
   bandemia and worsening acidosis concerning for severe CDiff.  Abd exam
   benign and KUB with dilated bowel loops, no evidence of free air.
   - continue Levo/Flagyl for possible obstructive cholangitis
   - add Vanc for empiric coverage of ?HAP with levo/flagyl
   - continue Flagyl for C.diff and start po Vanco 250mg QID
   - send blood/urine/sputum Cx
   - consider diag/therapeutic [**Female First Name (un) 231**]
   - bolus with IVF, goal UOP >30cc/hr
   - trend lactates
   - will get CT abd to eval for colitis and toxic megacolon
   .
   # Metabolic Acidosis: Pt with elevated anion gap of 16 with mildly
   elevated lactate at 2.5. He has significant stool output and ongoing
   bicarb loss and he has been resuscitated with NS IVF resulting in mild
   hyperchloremia.  Suspect this is a combined gap & non-gap acidosis,
   will plan to continue IVF boluses with LR and replace bicarb loss in
   stool with D5 with 150meq of bicarb
   - IVF with D5 with 3 amps bicarb at 150cc/hr
   - trend lactate & ABGs
   - send urine for ketones
   - trend BMP q8hrs
   .
   # Tachycardia: Etiology unclear, does not seem to be responding to IVF
   boluses.  Pt has remained afebrile and CTA was negative for PE at [**Hospital **]. Concern for SIRS/Sepsis given Cdiff and signficant leukocytosis
   with bandemia. JVP is not visible and heart sounds clear, low suspician
   for pericardial effusion
   - bolus IVF with LR prn
   - f/u echo in am
   - trend HR
   - get CT abd to r/o colitis/megacolon
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Per ERCP
   report, their was no clear obstruction and prior stent was patent.
   Tbili trended down slightly after stenting.  Unclear if this was true
   precipitant of leukocytosis and transient hypotension
   - trend LFTs, lipase, amylase post ERCP
   - f/u GI recs
   - advance sips for now
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - t/b with outpt oncologist in am
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   .
   # FEN: Sips for comfort, otherwise NPO except meds
   -bolus LR and start D5 with 150meq bicarb at 150cc/hr to replete
   ongoing bicarb loss in stool
   -replete electrolytes, regular diet
   .
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-19**] 10:23 PM 41.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   20 Gauge - [**2125-6-18**] 05:46 PM
   18 Gauge - [**2125-6-20**] 02:40 AM
   Prophylaxis:
   DVT:  Heparin SC
   Stress ulcer: PPI [**Hospital1 **]
   VAP:
   Comments:
   Communication:  Comments:  Patient and wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2125-06-20 11:39:00 Physician Attending Progress Note
Chief Complaint: C difficile colitis, acute respiratory failure,
   pleural effusions, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient continued to receive fluids through the night for tachycardia.
   HR improved this AM.
   Maintained on vent with switch to PSV this AM. Appears comfortable.
   Oxygenation good on 50 % oxygen.
   Lactate level improved.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Intubated
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-20**] 12:00 AM
   Metronidazole - [**2125-6-20**] 05:34 AM
   Vancomycin - [**2125-6-20**] 05:35 AM
   Infusions:
   Propofol - 35.7 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2125-6-19**] 06:10 PM
   Propofol - [**2125-6-19**] 06:12 PM
   Fentanyl - [**2125-6-19**] 06:40 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-19**] 10:11 PM
   Pantoprazole (Protonix) - [**2125-6-20**] 08:46 AM
   Other medications:
   sc heparin, protonix. fentanyl patch, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-20**] 11:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.6
C (97.8
   HR: 128 (117 - 153) bpm
   BP: 122/107(110) {92/67(73) - 147/107(110)} mmHg
   RR: 19 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                 15,723 mL
                                                                  3,301 mL
   PO:
             TF:
   IVF:
                                                                 15,655 mL
                                                                  2,836 mL
   Blood products:
   Total out:
                                                                  2,075 mL
                                                                  1,315 mL
   Urine:
                                                                    850 mL
                                                                    715 mL
   NG:
   Stool:
                                                                  1,000 mL
   Drains:
   Balance:
                                                                 13,648 mL
                                                                  1,986 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 603 (603 - 603) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 15
   PIP: 11 cmH2O
   Plateau: 12 cmH2O
   SpO2: 100%
   ABG: 7.42/32/122/21/-2
   Ve: 7.2 L/min
   PaO2 / FiO2: 244
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: No(t) Clear : , Rhonchorous: Few scattered rhonchi)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Trace edema, Left: Trace edema, No(t) Cyanosis,
   No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   111 K/uL
   114 mg/dL
   0.4 mg/dL
   21 mEq/L
   3.2 mEq/L
   13 mg/dL
   110 mEq/L
   138 mEq/L
   28.7 %
   6.6 K/uL
        [image002.jpg]
                             [**2125-6-18**]  05:53 PM
                             [**2125-6-18**]  10:20 PM
                             [**2125-6-19**]  03:44 AM
                             [**2125-6-19**]  12:02 PM
                             [**2125-6-19**]  05:44 PM
                             [**2125-6-19**]  05:58 PM
                             [**2125-6-20**]  01:28 AM
                             [**2125-6-20**]  03:42 AM
   WBC
   9.7
   9.3
   8.5
   8.6
   6.6
   Hct
   33.0
   33.1
   30.7
   31.6
   28.7
   Plt
   138
   136
   133
   144
   111
   Cr
   1.0
   0.8
   0.7
   0.6
   0.5
   0.4
   TCO2
   15
   22
   21
   Glucose
   111
   109
   163
   140
   125
   114
   Other labs: PT / PTT / INR:15.7/39.8/1.4, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:368/1.9, Amylase / Lipase:23/23,
   Differential-Neuts:92.0 %, Band:0.0 %, Lymph:5.0 %, Mono:2.0 %, Eos:0.0
   %, Lactic Acid:1.2 mmol/L, Albumin:2.1 g/dL, LDH:446 IU/L, Ca++:6.4
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   ================================
   Patient has done well on the ventilator overnight. Will reduce FIO2.
   Suspect that he may have tired from sleep deprivation and the acute
   illness. He is managing on minimal vent support now. Will reduce
   sedation and, if he continues to do well, will extubate. If he has
   problems off sedation or gets more uncomfortable post extubation, would
   tap effusions.
   Improved heart rate suggests that we may be catching up with
   intravascular volume and that third spacing may be slowing down.
   Normallization of lactate level also consistent with better overall
   perfusion. Continue to support with fluids. If serum bicarb drops below
   20, would use one liter of D5W with 3 amps of bicarbonate.
   Hct drfiting down slightly. No evidence of bleeding. Not at transfusion
   threshold.
   Continue treatment for C diff. Stool is still copious.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-19**] 10:23 PM 41.[**Telephone/Fax (3) 17**] mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   20 Gauge - [**2125-6-18**] 05:46 PM
   18 Gauge - [**2125-6-20**] 02:40 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-21 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -extubated
   - Urine growing GNR; on Levo, IV Flagyl, Vanc PO; (IV Flagyl + PO Vanco
   are for C. diff pos at OSH, neg at [**Hospital1 1**]); (Levo + IV Flagyl is for
   aspiration PNA and for biliary obstruction s/p ERCP and Levo for UTI)
   -Pt c/o SOB and was tachycardic as well as agitated. Received ativan
   0.5mg and started on fentanyl 25-50mcg q6h: PRN SOB to help decrease
   WOB.
   - began to desaturate on 6L NC, with increased agitation; put on
   nebulizer and received haldol; ABG with PO2 49, although SaO2 94% 6L
   NC.  No changes to EKG. Increased infiltrate/effusion in R lung. No
   temp spike, but BCx and UA/UCx sent.
   -Added IV vanco and IV aztreonam (pseudomonas) for increased infiltrate
   in R lung given concern for worsening PNA given new hypoxemia
   -gave bicarb for HCO3=20
   -received fentanyl patch, fentanyl, morphine, one dose lasix for
   increasing SOB/increasing O2 requirement
   -Voided 200cc in 15min after lasix
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-20**] 11:15 PM
   Levofloxacin - [**2125-6-21**] 12:00 AM
   Aztreonam - [**2125-6-21**] 01:24 AM
   Metronidazole - [**2125-6-21**] 06:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-6-20**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2125-6-20**] 11:00 PM
   Haloperidol (Haldol) - [**2125-6-21**] 02:00 AM
   Morphine Sulfate - [**2125-6-21**] 03:00 AM
   Fentanyl - [**2125-6-21**] 03:00 AM
   Furosemide (Lasix) - [**2125-6-21**] 03:45 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-21**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.9
   HR: 139 (111 - 160) bpm
   BP: 132/92(101) {104/69(78) - 156/107(110)} mmHg
   RR: 26 (11 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  5,346 mL
                                                                  2,424 mL
   PO:
             TF:
   IVF:
                                                                  4,184 mL
                                                                  1,877 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                    939 mL
   Urine:
                                                                  1,275 mL
                                                                    739 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,071 mL
                                                                  1,485 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 673 (603 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.40/33/86/22/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General: sedated, intubated
   HEENT: sl.  dry MM, oropharynx clear
   Neck: supple, no LAD
   Lungs: Clear to auscultation bilaterally, though [**Month (only) 202**] BS at bases right
   greater than left.
   CV: Sinus tachycardia, regular rhythm, no murmurs, rubs, gallops
   appreciated
   Abdomen: soft, grimace with deep RUQ palpation, hypoactive BS
   Ext: cool, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   77 K/uL
   9.2 g/dL
   128 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   110 mEq/L
   141 mEq/L
   27.3 %
   14.8 K/uL
        [image002.jpg]
   [**2125-6-21**] at 6AM
                             [**2125-6-19**]  05:58 PM
                             [**2125-6-20**]  01:28 AM
                             [**2125-6-20**]  03:42 AM
                             [**2125-6-20**]  11:30 AM
                             [**2125-6-20**]  02:48 PM
                             [**2125-6-20**]  09:01 PM
                             [**2125-6-20**]  09:21 PM
                             [**2125-6-20**]  10:56 PM
                             [**2125-6-21**]  03:19 AM
                             [**2125-6-21**]  06:00 AM
   WBC
   6.6
   11.2
   14.8
   Hct
   28.7
   30.3
   27.3
   Plt
   111
   95
   77
   Cr
   0.4
   0.5
   0.5
   0.4
   TCO2
   22
   21
   23
   19
   21
   21
   Glucose
   114
   132
   122
   125
   128
   Other labs: PT / PTT / INR:16.6/38.8/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:388/3.2, Amylase / Lipase:23/23,
   Differential-Neuts:91.0 %, Band:0.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:535 IU/L, Ca++:7.1
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Respiratory failure
 most likely due to tiring /sleep deprivatoin
   from acute illness or may be due to pleural effusion. Pt doing well on
   ventilator with little support.
   -If O2 sats do well on FiO2=35%, will decrease sedation and extubate
   -if no improvement with extubation, will consider extubation
   -f/u CXR; repeat tomorrow
   .
   # Leukocytosis: Resolved. Pt now afebrile. C diff negative here but was
   positive at OSH. LFTs suggest worsening obstructive cholestasis. CT
   [**Last Name (un) 42**] negative for toxic megacolon.
   - continue Levo/Flagyl for possible obstructive cholangitis
   - continue PO vanco/IV Flagyl
 for C. diff given it was positive at
   last hospital
   - f/u blood/urine
   - bolus with IVF, goal UOP >30cc/hr
   - trend lactates
   .
   # Metabolic Acidosis: Resolved. Lactate decreased and  AG decreased. Pt
   was given significant amounts of bicarb.
   - continue IVF
   -F/u PM lytes
 if HCO3 <20, give one liter of D5W with 3 amps of
   bicarbonate.
   - trend lactate & ABGs
   .
   # Tachycardia: Etiology unclear, but does respond to IVF boluses
   suggesting intravascular depletion. Pt has remained afebrile and CTA
   was negative for PE at [**Hospital3 **].
   - bolus IVF with NS prn
   - trend HR
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Per ERCP
   report, their was no clear obstruction and prior stent was patent.
   Tbili trended down slightly after stenting.  Unclear if this was true
   precipitant of leukocytosis and transient hypotension
   - trend LFTs, lipase, amylase post ERCP
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - t/b with outpt oncologist
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   ICU Care
   Nutrition: NPO except meds and ice chips
   TPN without Lipids - [**2125-6-20**] 07:05 PM 75 mL/hour
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   20 Gauge - [**2125-6-18**] 05:46 PM
   Prophylaxis:
   DVT:  pneumoboots, heparin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: Patient and wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2125-06-21 11:25:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, C. Diff, pleural effusions
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continued respiratory distress through the night with agitation.
   Improved with some morphine and then given lasix this morning.
   Tachycardia persists; not responding to fluids.
   Diarrhea persists.
   LFT's rising.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-21**] 12:00 AM
   Aztreonam - [**2125-6-21**] 01:24 AM
   Metronidazole - [**2125-6-21**] 06:30 AM
   Vancomycin - [**2125-6-21**] 09:30 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-6-20**] 11:00 PM
   Furosemide (Lasix) - [**2125-6-21**] 03:45 AM
   Pantoprazole (Protonix) - [**2125-6-21**] 08:00 AM
   Fentanyl - [**2125-6-21**] 08:00 AM
   Haloperidol (Haldol) - [**2125-6-21**] 08:00 AM
   Morphine Sulfate - [**2125-6-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-21**] 11:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36
C (96.8
   HR: 140 (111 - 160) bpm
   BP: 142/90(101) {114/78(86) - 159/101(109)} mmHg
   RR: 29 (15 - 31) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  5,346 mL
                                                                  3,257 mL
   PO:
             TF:
   IVF:
                                                                  4,184 mL
                                                                  2,429 mL
   Blood products:
   Total out:
                                                                  2,275 mL
                                                                  1,114 mL
   Urine:
                                                                  1,275 mL
                                                                    914 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,071 mL
                                                                  2,143 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 673 (673 - 673) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 95%
   PIP: 11 cmH2O
   SpO2: 83%
   ABG: 7.40/33/86/22/-2
   Ve: 10.2 L/min
   PaO2 / FiO2: 91
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Mild to
   moderate resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness :
   bases), (Breath Sounds: No(t) Clear : , Crackles : Coarse, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X3, Movement: Purposeful, Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.2 g/dL
   77 K/uL
   128 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.7 mEq/L
   18 mg/dL
   110 mEq/L
   141 mEq/L
   27.3 %
   14.8 K/uL
        [image002.jpg]
                             [**2125-6-19**]  05:58 PM
                             [**2125-6-20**]  01:28 AM
                             [**2125-6-20**]  03:42 AM
                             [**2125-6-20**]  11:30 AM
                             [**2125-6-20**]  02:48 PM
                             [**2125-6-20**]  09:01 PM
                             [**2125-6-20**]  09:21 PM
                             [**2125-6-20**]  10:56 PM
                             [**2125-6-21**]  03:19 AM
                             [**2125-6-21**]  06:00 AM
   WBC
   6.6
   11.2
   14.8
   Hct
   28.7
   30.3
   27.3
   Plt
   111
   95
   77
   Cr
   0.4
   0.5
   0.5
   0.4
   TCO2
   22
   21
   23
   19
   21
   21
   Glucose
   114
   132
   122
   125
   128
   Other labs: PT / PTT / INR:16.6/38.8/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:388/3.2, Amylase / Lipase:23/23,
   Differential-Neuts:91.0 %, Band:0.0 %, Lymph:7.0 %, Mono:0.0 %, Eos:0.0
   %, Lactic Acid:1.7 mmol/L, Albumin:2.1 g/dL, LDH:535 IU/L, Ca++:7.1
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   RESPIRATORY DISTRESS
   ==========================
   Chest xray shows increasing evidence of volume overload. During his
   exam, patient did valsalva maneuver and transiently broke to NSR with
   rate 80 and then went back to his tachycardia, thus, tachycardia likely
   represents SVT rather than response to intravascular volume.. Creat is
   0.4 and BUN is not elevated. Will begin diuresis with lasix infusion
   and treat tachycardia with beta blockers.
   Continue antibiotics. WBC still rising.
   Continues to have small anion gap acidosis.
   Bilirubin elevated today; will notify ERCP team.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2125-6-20**] 07:05 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-22 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2125-6-21**] 02:05 PM
 NON-INVASIVE VENTILATION - START [**2125-6-21**] 03:30 PM
   .
   -Pt was on BIPAP with FiO2 70%, PS 5 and PEEP 8. O2 sats 96-100% on
   BIPAP but SaO2 decreased to 60s when mask removed. Attempted to change
   back to 80-95% high flow neb but sats were 88-90% and he c/o SOB with
   RR 28.
   -diuresing well with lasix drip, UOP titrated to 300cc/hr
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-21**] 11:00 PM
   Levofloxacin - [**2125-6-21**] 11:30 PM
   Vancomycin - [**2125-6-22**] 12:11 AM
   Metronidazole - [**2125-6-22**] 06:15 AM
   Infusions:
   Furosemide (Lasix) - 11 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-6-21**] 08:00 AM
   Fentanyl - [**2125-6-21**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2125-6-21**] 02:00 PM
   Furosemide (Lasix) - [**2125-6-21**] 03:03 PM
   Metoprolol - [**2125-6-22**] 02:00 AM
   Haloperidol (Haldol) - [**2125-6-22**] 02:30 AM
   Morphine Sulfate - [**2125-6-22**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-22**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 109 (86 - 146) bpm
   BP: 94/74(79) {90/58(64) - 159/91(101)} mmHg
   RR: 20 (16 - 31) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  5,391 mL
                                                                  1,049 mL
   PO:
             TF:
   IVF:
                                                                  3,536 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  4,694 mL
                                                                  2,360 mL
   Urine:
                                                                  4,494 mL
                                                                  2,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    697 mL
                                                                 -1,311 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: Standby
   Vt (Spontaneous): 1,061 (1,061 - 1,061) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.47/32/66/27/0
   Ve: 12.3 L/min
   PaO2 / FiO2: 94
   Physical Examination
   General: arousable to voice, confused
   HEENT: MMM, oropharynx clear
   Neck: supple
   Lungs: diffuse wheezes and crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, no murmurs, rubs, gallops
   appreciated
   Abdomen: soft, nt/nd +BS
   Ext: cool, 2+ PT/DP pulses, R arm with 3+ pitting edema, L arm with 2+
   pitting edema, legs without edema
   Labs / Radiology
   70 K/uL
   9.1 g/dL
   118 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   107 mEq/L
   140 mEq/L
   28.4 %
   17.0 K/uL
        [image002.jpg]
                             [**2125-6-20**]  09:01 PM
                             [**2125-6-20**]  09:21 PM
                             [**2125-6-20**]  10:56 PM
                             [**2125-6-21**]  03:19 AM
                             [**2125-6-21**]  06:00 AM
                             [**2125-6-21**]  01:41 PM
                             [**2125-6-21**]  02:51 PM
                             [**2125-6-21**]  04:06 PM
                             [**2125-6-21**]  04:36 PM
                             [**2125-6-22**]  06:00 AM
   WBC
   11.2
   14.8
   16.6
   17.0
   Hct
   30.3
   27.3
   28.7
   28.4
   Plt
   95
   77
   62
   70
   Cr
   0.5
   0.4
   0.5
   0.5
   TCO2
   19
   21
   21
   23
   23
   24
   Glucose
   132
   122
   125
   128
   128
   118
   Other labs: PT / PTT / INR:16.5/36.5/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:372/3.3, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:635 IU/L, Ca++:6.9
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   .
   UCx
 E. Coli
   .
   BCx- NGTD
   .
   CXR [**2125-6-22**]: slight improvement in pulmonary edema; increased R pleural
   effusion with fluid in R horizontal fissure.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   .
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hypoxia
 Pt with increasing O2 requirements overnight. Most likely
   due to pulmonary edema given pt received much fluids over past few days
   via TPN and antibiotics. TPN turned off at 9am this morning. Pt appears
   uncomfortable and has skin breakdown from BIPAP mask.
   -Will do elective intubation today so it does not become emergent. This
   will allow for oral feeds and decrease in need for TPN which will
   decrease fluids in.
   -Lasix drip  with goal UOP 300cc/hr with goal negative 2L
   .
   # Sepsis: Leukocytosis still increasing but pt remains afebrile.  C
   diff negative here but was positive at OSH. Pt with E. Coli UTI.
   Diarrhea has decreasing indicating improving colitis.
   - continue Levo/Flagyl for possible obstructive cholangitis
 will
   change to PO given OG tube as this will decrease fluids in
   - change to Bactrim DS PO for uncomplicated UTI
   - d/c IV vanco/ Aztreonam as pt appears to improve with diuresis making
   pneumonia less likely
   -obtain sputum cx
   - f/u blood/urine cx
   - trend lactates
   .
   # Tachycardia: most likely due to SVT
   -Continue Lopressor 5mg IV if BP stable
   .
   # Thrombocytopenia
 platelets have decreased from 138 at admission to
   70. Heparin d/c
d overnight for possible HIT
   -send HIT antibody
   -f/u plt and monitor for bleeding
   .
   # UE edema
 Pt with b/l UE edema, R>L. It is in dependent areas and is
   most likely from his fluid overload.
   -Continue diruesis
   -if not improved with diuresis, obtain UE LENI
s to evaluate for DVT
   .
   # Increasing LDH
 may be from hemolysis, increasing leukocytes or PCP
   [**Name9 (PRE) 7622**] peripheral smear and haptoglobin
   .
   # Mental status
 pt continues to be agitated and delirius, most likely
   due to combination of sepsis and hypoxia
   -treat above
   -Haldol q6h: PRN agitation
   -Wife sits with pt to help with re-orientation
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Pt now with
   stable alk phos and decreasing T. bili. ERCP fellow following
   peripherally
   -Continue levo/flagyl for biliary infection
   -Trend LFTs
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - stable per outpt oncologist
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   ICU Care
   Nutrition: NPO except meds/ice chips
   OG Tube for PO nutrition
   Stop TPN
   Glycemic Control:  ISS
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge x 2
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  Change to famotidine
   VAP:
   Comments:
   Communication:  Comments: Wife and patient when alert
   Code status: Full code
   Disposition: ICU

2125-06-22 10:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, pleural effusions
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient was doing better yesterday with diuresis during the day, but
   ultimately was positive for the 24 hour period with respect to fluid
   balance. O2 sats have worsened overnight and patient has more
   respiratory distress.
   24 Hour Events:
 EKG - At [**2125-6-21**] 02:05 PM
 NON-INVASIVE VENTILATION - START [**2125-6-21**] 03:30 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-21**] 11:30 PM
   Metronidazole - [**2125-6-22**] 06:15 AM
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-22**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 13 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2125-6-21**] 02:00 PM
   Furosemide (Lasix) - [**2125-6-21**] 03:03 PM
   Metoprolol - [**2125-6-22**] 02:00 AM
   Pantoprazole (Protonix) - [**2125-6-22**] 08:15 AM
   Haloperidol (Haldol) - [**2125-6-22**] 08:30 AM
   Morphine Sulfate - [**2125-6-22**] 09:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-22**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.8
C (96.5
   HR: 118 (86 - 146) bpm
   BP: 110/92(95) {89/51(60) - 137/92(95)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  5,391 mL
                                                                  1,291 mL
   PO:
             TF:
   IVF:
                                                                  3,536 mL
                                                                    541 mL
   Blood products:
   Total out:
                                                                  4,694 mL
                                                                  3,195 mL
   Urine:
                                                                  4,494 mL
                                                                  2,945 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    697 mL
                                                                 -1,904 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 456 (456 - 1,061) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.47/32/66/27/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 110
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Anxious, No(t) Diaphoretic, Moderate resp distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral, Crackles : Few rales, No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Not able to assess due to resp distress,
   Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone: Not
   assessed
   Labs / Radiology
   9.1 g/dL
   70 K/uL
   118 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   23 mg/dL
   107 mEq/L
   140 mEq/L
   28.4 %
   17.0 K/uL
        [image002.jpg]
                             [**2125-6-20**]  09:01 PM
                             [**2125-6-20**]  09:21 PM
                             [**2125-6-20**]  10:56 PM
                             [**2125-6-21**]  03:19 AM
                             [**2125-6-21**]  06:00 AM
                             [**2125-6-21**]  01:41 PM
                             [**2125-6-21**]  02:51 PM
                             [**2125-6-21**]  04:06 PM
                             [**2125-6-21**]  04:36 PM
                             [**2125-6-22**]  06:00 AM
   WBC
   11.2
   14.8
   16.6
   17.0
   Hct
   30.3
   27.3
   28.7
   28.4
   Plt
   95
   77
   62
   70
   Cr
   0.5
   0.4
   0.5
   0.5
   TCO2
   19
   21
   21
   23
   23
   24
   Glucose
   132
   122
   125
   128
   128
   118
   Other labs: PT / PTT / INR:16.5/36.5/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:372/3.3, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:635 IU/L, Ca++:6.9
   mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ACUTE RESPIRATORY DISTRESS
   ANEMIA
   =====================
   Patient very uncomfortable this AM. Because of TPN and antibiotics, we
   have been unable to achieve negative fluid balance. I am concerned
   about giving him no nutirion for days (especially with albumin at 2.1),
   and about a sudden decompensation as his fatigue and mental status
   deteriorate. Will proceed with elective intubation. Place OG tube for
   feeding given that his diarrhea has improved indicative of resolving
   colitis. Will stop antibiotics for possible pneumonia; cultures have
   been negative and patient has been afebrile. Resend sputum culture/gram
   stain after intubation.
   Hct stable. Not at transfusion threshold.
   Platelet counts dropping. Will check HIT antibody. Heparin was stopped.
   Metabolic acidosis has resolved.
   LDH rising for unclear reasons. Checking for hemolysis. Doubt PCP at
   this time.
   ICU Care
   Nutrition: Will start tube feeds.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Lenghthy discussion with
   wife today after examining patient.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-06-23 08:28:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2125-6-22**] 11:00 AM
 INVASIVE VENTILATION - START [**2125-6-22**] 11:00 AM
 SPUTUM CULTURE - At [**2125-6-22**] 04:00 PM
 ARTERIAL LINE - START [**2125-6-22**] 10:28 PM
   - pt had SBPs consistently in 80-90s with one episode in 70s, A-line
   was placed for better BP monitoring
   - antibiotics switched from PO to IV
   - UOP dwindled after 6 PM, 15-20 cc/hr
   - ABG 7.43/38/128/26 - wean from FiO2 of .6 --> .4
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-23**] 12:25 AM
   Metronidazole - [**2125-6-23**] 05:53 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Haloperidol (Haldol) - [**2125-6-22**] 08:30 AM
   Morphine Sulfate - [**2125-6-22**] 09:41 AM
   Fentanyl - [**2125-6-22**] 02:30 PM
   Midazolam (Versed) - [**2125-6-22**] 05:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-23**] 08:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 139 (109 - 139) bpm
   BP: 80/58(66) {76/55(-2) - 110/73(88)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,940 mL
                                                                    458 mL
   PO:
             TF:
                                                                     64 mL
                                                                     60 mL
   IVF:
                                                                    846 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                  3,824 mL
                                                                    101 mL
   Urine:
                                                                  3,574 mL
                                                                    101 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,884 mL
                                                                    357 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.44/36/111/23/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: arousable to voice, confused
   HEENT: MMM, oropharynx clear
   Neck: supple
   Lungs: diffuse wheezes and crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, no murmurs, rubs, gallops
   appreciated
   Abdomen: soft, nt/nd +BS
   Ext: cool, 2+ PT/DP pulses, R arm with 3+ pitting edema, L arm with 2+
   pitting edema, legs without edema
   Labs / Radiology
   92 K/uL
   9.1 g/dL
   88 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   27.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2125-6-21**]  04:06 PM
                             [**2125-6-21**]  04:36 PM
                             [**2125-6-22**]  06:00 AM
                             [**2125-6-22**]  02:45 PM
                             [**2125-6-22**]  03:15 PM
                             [**2125-6-22**]  03:45 PM
                             [**2125-6-22**]  09:37 PM
                             [**2125-6-23**]  01:14 AM
                             [**2125-6-23**]  04:46 AM
                             [**2125-6-23**]  05:06 AM
   WBC
   16.6
   17.0
   17.8
   17.1
   14.9
   Hct
   28.7
   28.4
   28.8
   27.8
   27.9
   Plt
   62
   70
   90
   89
   92
   Cr
   0.5
   0.5
   0.6
   0.7
   TCO2
   24
   27
   26
   25
   Glucose
   128
   118
   101
   88
   Other labs: PT / PTT / INR:17.1/31.9/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:448/3.0, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:635 IU/L, Ca++:7.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Sputum, blood, urine cultures
 pending
   Sputum gram stain
 no organisms seen
   CXR
 some improvement in LLL, able to visualize L hemidiaphragm
   better.  R lung unchanged
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hypoxia/Resp Distress
 intubated on AC, weaned from 60% to 40% FiO2,
   tolerated well, saturating in high 90s.  Most likely due to pulmonary
   edema [**12-18**] IVF overload.  TPN switched to tube feeds to reduce volume of
   intake.
   - decrease vent settings to FiO2 35%, RR 16, PEEP 5
   - ABG to assess oxygenation on new vent settings
   - switch fentanyl/versed sedation to proprofol
   #Hypotension/Sepsis: WBC 14.9 today.  Hypotensive to SBPs of 70s-90s
   overnight, A-line placed for better BP monitoring.  Pt has been C diff
   negative here but was positive at OSH. Pt with E. Coli UTI. Diarrhea
   has been improving.
   - PO flagyl and levo switched back to IV, thought process being that
   perhaps perhaps PO meds not being adequately absorbed from GI tract,
   worsening sepsis picture
   - change to Bactrim DS PO for uncomplicated UTI
   - f/u blood/urine cx
   - trend lactates
   - consider levophed for BP control since propofol and diuresis will
   likely bring down BP even further
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.
   -will administer albumin today and follow with lasix bolus
   - diuresis to goal of -1L today
   # Tachycardia: most likely due to SVT
   - Lopressor held for hypotension
   .
   # Thrombocytopenia
 platelets have decreased from 138 at admission to
   70. Heparin d/c
d overnight for possible HIT
   - f/u HIT antibody
   - f/u plt and monitor for bleeding
   - pneumoboots
   .
   # Increasing LDH
 may be from hemolysis, increasing leukocytes or PCP
   [**Name9 (PRE) 7622**] peripheral smear and haptoglobin
   .
   # Mental status
 pt continues to be agitated and delirius, most likely
   due to combination of sepsis and hypoxia
   -treat above
   -Haldol q6h: PRN agitation
   -Wife sits with pt to help with re-orientation
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Pt now with
   stable alk phos and decreasing T. bili. ERCP fellow following
   peripherally
   -Continue levo/flagyl for biliary infection
   -Trend LFTs
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - stable per outpt oncologist
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   ICU Care
   Nutrition: Tube feeding
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: wife
   [**Name (NI) 129**] status: Full code
   Disposition: ICU

2125-06-23 10:10:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, C. Diff colitis, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Problems with low BP last night. Antibiotics switched back to IV from
   oral.
   FIO2 reduced to 40%. Continues on assist control.
   WBC still trending down.
   24 Hour Events:
 NON-INVASIVE VENTILATION - STOP [**2125-6-22**] 11:00 AM
 INVASIVE VENTILATION - START [**2125-6-22**] 11:00 AM
 SPUTUM CULTURE - At [**2125-6-22**] 04:00 PM
 ARTERIAL LINE - START [**2125-6-22**] 10:28 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-23**] 12:25 AM
   Metronidazole - [**2125-6-23**] 05:53 AM
   Infusions:
   Fentanyl (Concentrate) - 25 mcg/hour
   Midazolam (Versed) - 0.5 mg/hour
   Other ICU medications:
   Fentanyl - [**2125-6-22**] 02:30 PM
   Midazolam (Versed) - [**2125-6-22**] 05:07 PM
   Other medications:
   Insulin, bactrim, flagyl
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-23**] 10:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 135 (109 - 139) bpm
   BP: 88/60(69) {76/55(-2) - 110/73(88)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,940 mL
                                                                    559 mL
   PO:
             TF:
                                                                     64 mL
                                                                     60 mL
   IVF:
                                                                    846 mL
                                                                    259 mL
   Blood products:
   Total out:
                                                                  3,824 mL
                                                                    136 mL
   Urine:
                                                                  3,574 mL
                                                                    136 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,884 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 20 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.44/36/111/23/0
   Ve: 12.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   92 K/uL
   88 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.9 mEq/L
   32 mg/dL
   108 mEq/L
   139 mEq/L
   27.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2125-6-21**]  04:06 PM
                             [**2125-6-21**]  04:36 PM
                             [**2125-6-22**]  06:00 AM
                             [**2125-6-22**]  02:45 PM
                             [**2125-6-22**]  03:15 PM
                             [**2125-6-22**]  03:45 PM
                             [**2125-6-22**]  09:37 PM
                             [**2125-6-23**]  01:14 AM
                             [**2125-6-23**]  04:46 AM
                             [**2125-6-23**]  05:06 AM
   WBC
   16.6
   17.0
   17.8
   17.1
   14.9
   Hct
   28.7
   28.4
   28.8
   27.8
   27.9
   Plt
   62
   70
   90
   89
   92
   Cr
   0.5
   0.5
   0.6
   0.7
   TCO2
   24
   27
   26
   25
   Glucose
   128
   118
   101
   88
   Other labs: PT / PTT / INR:17.1/31.9/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:448/3.0, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Lactic Acid:1.8 mmol/L, Albumin:2.1 g/dL, LDH:635 IU/L, Ca++:7.2
   mg/dL, Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR: persistent bilateral infiltrates and effusions; left
   sided infiltrates may be slightly better compared to yesterday.
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ACUTE RESPIRATORY FAILURE
   ANEMIA
   =======================
   Patient's oxygenation is improved and CXR may be somewhat improved on
   the left. We have had difficulties with diuresis, possibly due to low
   blood pressure. Has not been on very high doses of sedation; unclear if
   this is contributing to blood pressure problem. Antibiotics switched
   back to IV on the possibility that the low BP reflects flare of the
   infection, but WBC is still coming down and diarrhea is improving, and
   he is afebrile. Will give albumin followed by lasix; would like to
   achieve 1.0 L negative fluid balance. If that is unsuccessful, consider
   small dose of levphed to get BP to 110 systolic to see if that will
   enable us to increase urine output.
   Hct stable. Not at transfusion threshold.
   Metabolic acidosis resolved.
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-24 07:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Norepinephrine with SBP 80-130s (goal 110)
   -Lasix gtt with UOP 160-210cc/hr (goal 1L negative); at midnight,
   negative 200cc; since midnight: negative 787
   -SaO2 99% on AC 600x16 with FiO2 35% at PEEP 5; ABG: 7.46/36/78/26
   -Pt more alkalotic (7.48/32/97/25) so decreased RR from 16 to 12
   7.48/32/97/25.
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-24**] 12:02 AM
   Metronidazole - [**2125-6-24**] 05:48 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Furosemide (Lasix) - 8 mg/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-24**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 107 (92 - 141) bpm
   BP: 111/67(84) {82/55(65) - 134/76(97)} mmHg
   RR: 14 (12 - 22) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,888 mL
                                                                    734 mL
   PO:
             TF:
                                                                    160 mL
                                                                     75 mL
   IVF:
                                                                  1,158 mL
                                                                    629 mL
   Blood products:
   Total out:
                                                                  2,086 mL
                                                                  1,700 mL
   Urine:
                                                                  2,086 mL
                                                                  1,700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                   -966 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 28
   PIP: 23 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.48/32/96.[**Numeric Identifier 274**]/25/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General: Intubated, sedated, not opening eyes but moves all 4
   extremities
   Lungs: diffuse crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, S3 gallop
   Abdomen: soft, nt/nd +BS
   Ext: cool, 2+ PT/DP pulses, R arm with 3+ pitting edema, L arm with 2+
   pitting edema, legs without edema
   Labs / Radiology
   81 K/uL
   8.7 g/dL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   31 mg/dL
   105 mEq/L
   141 mEq/L
   25.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2125-6-22**]  03:45 PM
                             [**2125-6-22**]  09:37 PM
                             [**2125-6-23**]  01:14 AM
                             [**2125-6-23**]  04:46 AM
                             [**2125-6-23**]  05:06 AM
                             [**2125-6-23**]  11:12 AM
                             [**2125-6-23**]  05:14 PM
                             [**2125-6-23**]  05:29 PM
                             [**2125-6-24**]  04:52 AM
                             [**2125-6-24**]  05:16 AM
   WBC
   17.8
   17.1
   14.9
   13.2
   Hct
   28.8
   27.8
   27.9
   25.6
   Plt
   90
   89
   92
   81
   Cr
   0.7
   0.8
   0.9
   TCO2
   26
   25
   25
   26
   25
   Glucose
   88
   104
   102
   Other labs: PT / PTT / INR:17.8/37.9/1.6, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:391/4.5 (from 3.0), Amylase /
   Lipase:23/23, Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %,
   Mono:2.9 %, Eos:0.2 %, Lactic Acid:1.8 mmol/L, Albumin:2.5 g/dL,
   LDH:604 IU/L, Ca++:7.3 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   .
   Haptoglobin < 20
   .
   [**6-22**] Urine cx- yeast
   Sputum, blood cultures
 pending
   Sputum gram stain
 no organisms seen
   CXR
 ET tube in place, L CLV in place. Grossly unchanged. Mild
   improvement in L lung with better visualization of L heart border.  R
   lung unchanged
   Assessment and Plan
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hypoxia/Resp Distress
 intubated on AC, weaned to 35% FiO2,
   tolerated well, saturating in high 90s.  Most likely due to pulmonary
   edema [**12-18**] IVF overload.  TPN switched to tube feeds to reduce volume of
   intake.  Neg 1 L this AM but still +19 L for hospital stay.  SBT on
   rounds with RSBI 26.  Will plan to hold TFs for the next 6 hours,
   diurese to -500cc and do another SBT in 6 hours.
   - SBT with RSBI at 5pm
   - holding TFs pending above
   - weaning proprofol sedation
   #Leukocytosis: WBC 13.2 with unclear etiology.  Hypotensive to SBPs of
   90-110s overnight.  Pt has been C diff negative here but was positive
   at OSH. Diarrhea has been improving. Pt with E. Coli UTI on admission
   but cleared on [**6-22**] urine cx.
   - PO flagyl and levo switched back to IV, thought process being that
   perhaps perhaps PO meds not being adequately absorbed from GI tract,
   - Bactrim DS PO for uncomplicated UTI
   - f/u blood cx
   - trend lactates
   - wean levophed as tolerated
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.
   - diuresis to goal of -1-2 L today
   -will administer albumin today and follow with lasix bolus
   - possible Echo tomorrow to eval for cardiomyopathy given persistent
   tachy and new gallop on exam
   .
   # Tachycardia: most likely due to SVT
   - Lopressor held for hypotension
   -improved with profolol to HR low 100s
   .
   # Thrombocytopenia
 platelets have decreased from admission. Heparin
   d/c
d with mild improvement in plt from 70 ->90. Now 81.  HIT antibody
   pending.
   - f/u HIT antibody
   - f/u plt and monitor for bleeding
   - pneumoboots
   .
   # Hemolysis: Haptoglobin <20, increased t bili (awaiting fractionation)
   , 2+ schistocytes on peripheral smear, hct steadily dropping since
   admission, thrombocytopenia, increased LDH.
   - heme consult
   - check urine for hemoglobin
   -must consider possible TTP given anemia, thrombocytopenia, AMS
   .
   # Mental status
Cannot assess as pt is intubated and sedated.
   Previously pt agitated and delirius, most likely due to combination of
   sepsis and hypoxia
   -treat above
   -Haldol q6h: PRN agitation
   -Wife sits with pt to help with re-orientation
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Pt now with
   stable elevated alk phos and T. bili increased this am. ERCP fellow
   following peripherally
   -Continue levo/flagyl for biliary infection
   - total 7 day course of levo, tomorrow is day 7
   -Trend LFTs
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - stable per outpt oncologist
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-24**] 02:45 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-06-24 11:21:00 Physician Attending Progress Note
Chief Complaint: Acute respiratory failure, C diff, anemia, SVT,
   hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient diuresed with lasix. Fluid balance even yesterday, but he is
   another liter negative since midnight.
   Continues to require levophed to support blood pressure. WBC continues
   to fall. Patient was afebrile.
   Bilirubin is rising; LDH is elevated - hatoglobin is down.
   24 Hour Events:
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-24**] 12:02 AM
   Metronidazole - [**2125-6-24**] 05:48 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-24**] 11:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 121 (92 - 139) bpm
   BP: 103/70(82) {82/55(65) - 134/75(97)} mmHg
   RR: 11 (11 - 19) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,888 mL
                                                                  1,076 mL
   PO:
             TF:
                                                                    160 mL
                                                                    138 mL
   IVF:
                                                                  1,158 mL
                                                                    778 mL
   Blood products:
   Total out:
                                                                  2,086 mL
                                                                  2,340 mL
   Urine:
                                                                  2,086 mL
                                                                  2,340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -198 mL
                                                                 -1,264 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 28
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.47/38/81.[**Numeric Identifier **]/25/3
   Ve: 9.2 L/min
   PaO2 / FiO2: 231
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+ edema, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.7 g/dL
   81 K/uL
   102 mg/dL
   0.9 mg/dL
   25 mEq/L
   3.5 mEq/L
   31 mg/dL
   105 mEq/L
   141 mEq/L
   25.6 %
   13.2 K/uL
        [image002.jpg]
                             [**2125-6-22**]  09:37 PM
                             [**2125-6-23**]  01:14 AM
                             [**2125-6-23**]  04:46 AM
                             [**2125-6-23**]  05:06 AM
                             [**2125-6-23**]  11:12 AM
                             [**2125-6-23**]  05:14 PM
                             [**2125-6-23**]  05:29 PM
                             [**2125-6-24**]  04:52 AM
                             [**2125-6-24**]  05:16 AM
                             [**2125-6-24**]  08:47 AM
   WBC
   17.1
   14.9
   13.2
   Hct
   27.8
   27.9
   25.6
   Plt
   89
   92
   81
   Cr
   0.7
   0.8
   0.9
   TCO2
   26
   25
   25
   26
   25
   28
   Glucose
   88
   104
   102
   Other labs: PT / PTT / INR:17.8/37.9/1.6, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:22/31, Alk Phos / T Bili:391/4.5, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL, LDH:604 IU/L, Ca++:7.3
   mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: bilateral infiltrates and effusions without significant
   change from yesterday.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   THROMBOCYTOPENIA
   ============
   Oxygenation much improved with diuresis. On rounds we placed him on PSV
   5/0 and the RSBI was 26. Will stop tube feeds and do formal SBT later
   this afternoon. Diruese another 0.5 L negative over the next 6 hours.
   Blood pressure requiring support of norepi while on propofol and lasix
   infusion. Still no other evidence for worsening infection/sepsis as an
   alternative cause of hypotension. Cardiac gallop present today.
   Consider repeat of echo tomorrow.
   Evidence of hemolysis now. With decreasing platelet count as well and
   mild renal insufficiency, as well as agitation, consideration of TTP.
   Will ask heme service to consult. HIT antibody is pending.
   C diff appears to be resolving. Day 6 of levofloxacin.
   Hct at 25. Not at transfusion threshold.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-24**] 02:45 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2125-06-25 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -remained intubated o/n with plan for extubation tomorrow, NPO after
   midnight
   -high residuals around 5pm after holding TF for 6 hours
   -low haptoglobin, low fibrinogen, high FDP etc concern for TTP or DIC:
   considered pheresis (heme consulted) but decided to wait and reassess
   tomorrow
   - neg 2.5L for today (exceeded neg 1-2 L goal)
   -back on AC o/n for comfort 600x12 5 PEEP .35 FiO2
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Aztreonam - [**2125-6-22**] 08:15 AM
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-25**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 115 (105 - 139) bpm
   BP: 119/76(92) {81/56(66) - 120/87(100)} mmHg
   RR: 12 (9 - 19) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,546 mL
                                                                    638 mL
   PO:
             TF:
                                                                    205 mL
   IVF:
                                                                  1,522 mL
                                                                    578 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,082 mL
                                                                    805 mL
   Urine:
                                                                  4,590 mL
                                                                    805 mL
   NG:
                                                                    492 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,536 mL
                                                                   -167 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 644 (311 - 744) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 20
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.41/44/118/26/2
   Ve: 10.2 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General: Intubated, sedated, not opening eyes but moves all 4
   extremities
   Lungs: diffuse crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, S3 gallop
   Abdomen: soft, nt/nd +BS
   Ext: cool, 2+ PT/DP pulses, R arm with 3+ pitting edema, L arm with 2+
   pitting edema, legs without edema
   Labs / Radiology
   72 K/uL
   8.1 g/dL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   26 mg/dL
   103 mEq/L
   136 mEq/L
   23.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2125-6-23**]  05:14 PM
                             [**2125-6-23**]  05:29 PM
                             [**2125-6-24**]  04:52 AM
                             [**2125-6-24**]  05:16 AM
                             [**2125-6-24**]  08:47 AM
                             [**2125-6-24**]  01:11 PM
                             [**2125-6-24**]  02:42 PM
                             [**2125-6-24**]  03:20 PM
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
   WBC
   13.2
   12.8
   12.5
   Hct
   25.6
   26.4
   23.9
   Plt
   81
   79
   72
   Cr
   0.8
   0.9
   0.9
   0.9
   TCO2
   26
   25
   28
   27
   29
   Glucose
   104
   102
   98
   102
   Other labs: PT / PTT / INR:17.6/38.2/1.6, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:321/3.8, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Fibrinogen:103 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:577 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   .
   Haptoglobin < 20
   .
   [**6-22**] Urine cx- yeast
   Sputum, blood cultures
 pending
   Sputum gram stain
 no organisms seen
   CXR
 ET tube in place, L CLV in place. Grossly unchanged. Mild
   improvement in L lung with better visualization of L heart border.  R
   lung unchanged
   Assessment and Plan
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hypoxia/Resp Distress
 intubated on AC, weaned to 35% FiO2,
   tolerated well, saturating in high 90s.  Most likely due to pulmonary
   edema [**12-18**] IVF overload.  TPN switched to tube feeds to reduce volume of
   intake.  Neg 1 L this AM but still +19 L for hospital stay.  SBT on
   rounds with RSBI 26.  Will plan to hold TFs for the next 6 hours,
   diurese to -500cc and do another SBT in 6 hours.
   - SBT with RSBI at 5pm
   - holding TFs pending above
   - weaning proprofol sedation
   #Leukocytosis: WBC 13.2 with unclear etiology.  Hypotensive to SBPs of
   90-110s overnight.  Pt has been C diff negative here but was positive
   at OSH. Diarrhea has been improving. Pt with E. Coli UTI on admission
   but cleared on [**6-22**] urine cx.
   - PO flagyl and levo switched back to IV, thought process being that
   perhaps perhaps PO meds not being adequately absorbed from GI tract,
   - Bactrim DS PO for uncomplicated UTI
   - f/u blood cx
   - trend lactates
   - wean levophed as tolerated
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.
   - diuresis to goal of -1-2 L today
   -will administer albumin today and follow with lasix bolus
   - possible Echo tomorrow to eval for cardiomyopathy given persistent
   tachy and new gallop on exam
   .
   # Tachycardia: most likely due to SVT
   - Lopressor held for hypotension
   -improved with profolol to HR low 100s
   .
   # Thrombocytopenia
 platelets have decreased from admission. Heparin
   d/c
d with mild improvement in plt from 70 ->90. Now 81.  HIT antibody
   pending.
   - f/u HIT antibody
   - f/u plt and monitor for bleeding
   - pneumoboots
   .
   # Hemolysis: Haptoglobin <20, increased t bili (awaiting fractionation)
   , 2+ schistocytes on peripheral smear, hct steadily dropping since
   admission, thrombocytopenia, increased LDH.
   - heme consult
   - check urine for hemoglobin
   -must consider possible TTP given anemia, thrombocytopenia, AMS
   .
   # Mental status
Cannot assess as pt is intubated and sedated.
   Previously pt agitated and delirius, most likely due to combination of
   sepsis and hypoxia
   -treat above
   -Haldol q6h: PRN agitation
   -Wife sits with pt to help with re-orientation
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  Pt now with
   stable elevated alk phos and T. bili increased this am. ERCP fellow
   following peripherally
   -Continue levo/flagyl for biliary infection
   - total 7 day course of levo, tomorrow is day 7
   -Trend LFTs
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - stable per outpt oncologist
   - continue fentanyl patch 12mcg q 72hr for pain
   - oxycodone 5mg prn breakthrough
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-24**] 02:45 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-06-25 12:07:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, c diff colitis, pleural
   effusions, hypotension, anemia, thrombocytopenia, hemolysis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   RSBI 20 this morning on PSV. Was comfortable through the night.
   Continued to have good urine output with lasix - fluid balance negative
   3L in the past 36 hours.
   Still requiring levophed to support BP with sedation.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-23**] 12:11 AM
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Lasix infusion,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-25**] 12:07 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 124 (105 - 139) bpm
   BP: 97/61(75) {81/56(66) - 120/87(100)} mmHg
   RR: 14 (9 - 17) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 94.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  2,546 mL
                                                                    791 mL
   PO:
             TF:
                                                                    205 mL
   IVF:
                                                                  1,522 mL
                                                                    731 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                  5,082 mL
                                                                  1,405 mL
   Urine:
                                                                  4,590 mL
                                                                  1,405 mL
   NG:
                                                                    492 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,536 mL
                                                                   -614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 605 (595 - 744) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 20
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.41/44/118/26/2
   Ve: 10 L/min
   PaO2 / FiO2: 337
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube, No(t) NG tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 1+ edema, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   72 K/uL
   102 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   26 mg/dL
   103 mEq/L
   136 mEq/L
   23.9 %
   12.5 K/uL
        [image002.jpg]
                             [**2125-6-23**]  05:14 PM
                             [**2125-6-23**]  05:29 PM
                             [**2125-6-24**]  04:52 AM
                             [**2125-6-24**]  05:16 AM
                             [**2125-6-24**]  08:47 AM
                             [**2125-6-24**]  01:11 PM
                             [**2125-6-24**]  02:42 PM
                             [**2125-6-24**]  03:20 PM
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
   WBC
   13.2
   12.8
   12.5
   Hct
   25.6
   26.4
   23.9
   Plt
   81
   79
   72
   Cr
   0.8
   0.9
   0.9
   0.9
   TCO2
   26
   25
   28
   27
   29
   Glucose
   104
   102
   98
   102
   Other labs: PT / PTT / INR:17.6/38.2/1.6, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:321/3.8, Amylase / Lipase:23/23,
   Differential-Neuts:92.6 %, Band:0.0 %, Lymph:4.0 %, Mono:2.9 %, Eos:0.2
   %, Fibrinogen:103 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:577 IU/L, Ca++:7.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ANEMIA
   THROMBOCYTOPENIA
   ACUTE RENAL FAILURE
   ============================
   Patient doing well from respiratory standpoint. We will continue
   diuresis. Presently doing spontaneous breathing trial. Will extubate if
   this looks good. Fluid balance today should again be 1-1.5 L negative.
   Renal function has been stable. Electrolytes good except for need for
   potassium supplementation with ongoing diuresis.
   Will try to stop levophed after propofol stopped and patient extubated.
   If tachycardia persists will start diltiazem.
   Hct down slightly. Platelets stable. Fibrinogen dropping; will recheck
   and monitor for threshold for giving cryoprecipitate.
   Completing therapy for C diff.
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-21**] 09:30 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-26 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-6-25**] 12:15 PM
   - extubated [**6-25**] in the AM
   - UOP good on lasix drip, -1.8L
   - levophed off since 12pm on [**6-25**]
   - received cryo for fibrinogen of 87 --> 140
   - unable to take meds PO, switched everything to IV except PO vanco
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Furosemide (Lasix) - 6 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-6-25**] 08:30 PM
   Metoprolol - [**2125-6-26**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 35.8
C (96.4
   HR: 108 (108 - 165) bpm
   BP: 91/56(70) {88/55(68) - 128/94(107)} mmHg
   RR: 23 (13 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,667 mL
                                                                    287 mL
   PO:
             TF:
   IVF:
                                                                  1,417 mL
                                                                    237 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  3,540 mL
                                                                  1,780 mL
   Urine:
                                                                  3,540 mL
                                                                  1,680 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                 -1,873 mL
                                                                 -1,493 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (565 - 605) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.55/29/91/26/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General: NAD, appears tired, responsive to questions, follows simple
   commands, NG tube in place
   Lungs: diffuse crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, S3 gallop
   Abdomen: soft, nt/nd +BS
   Ext: cool, 2+ PT/DP pulses, R arm with 3+ pitting edema, L arm with 2+
   pitting edema, legs without edema
   Labs / Radiology
   45 K/uL
   8.1 g/dL
   101 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   25 mg/dL
   107 mEq/L
   145 mEq/L
   23.5 %
   14.4 K/uL
        [image002.jpg]
                             [**2125-6-24**]  08:47 AM
                             [**2125-6-24**]  01:11 PM
                             [**2125-6-24**]  02:42 PM
                             [**2125-6-24**]  03:20 PM
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
                             [**2125-6-25**]  02:36 PM
                             [**2125-6-25**]  05:59 PM
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
   WBC
   12.8
   12.5
   16.3
   15.3
   14.4
   Hct
   26.4
   23.9
   25.7
   24.4
   23.5
   Plt
   79
   72
   55
   49
   45
   Cr
   0.9
   0.9
   0.9
   TCO2
   28
   27
   29
   26
   Glucose
   98
   102
   101
   Other labs: PT / PTT / INR:18.3/37.2/1.7, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:321/4.5, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, Fibrinogen:101 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:626 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   HIT
 negative
   Urine culture - yeast
   E. Coli 0157:H7
 pending
   MRSA screen
 pending
Resp culture
 oropharygeal flora absent.  Sparse yeast growth
   BCx
 pending
   CT head
 no acute intracranial bleeds
   TTE - Suboptimal image quality. Preserved global biventricular systolic
   function. Mild-moderate tricuspid regurgitation.
   CXR
 increased haziness in lungs bilaterally, likely due to layering
   of pleural effusion as film was taken in supine position
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hypoxia/Resp Distress
 extubated yesterday, saturating well on 2L
   NC.  Will monitor closely for signs of respiratory distress
   .
   # Hypotension
 Pt remains off levophed with SBPs in 90s-100s.  Will
   closely monitor BP as we continue to try and diurese pt due to volume
   overload.
   - will give 1 U pRBC today for anemia, but also will help with
   hypotension by increasing intravascular osmotic pressure to help draw
   fluid out of extravascular spaces
   .
   #Leukocytosis
 Unclear etiology. Pt has been C diff negative here but
   was positive at OSH. Diarrhea has been improving. Pt with E. Coli UTI
   on admission but cleared on [**6-22**] urine cx.
   - continue PO vancomycin on strong suspicion of C diff
   - f/u blood cx
   - trend lactates
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.
   - diuresis to goal of -500cc-1L today, making sure that patient does
   not get more hypotensive.
   .
   # Tachycardia: most likely due to SVT, intravascular volume depletion.
   Albumin 2.5 today
   - decrease metoprolol to 5mg q6
   - give 1 unit pRBC today to help with intravascular volume status and
   anemia
   .
   # Hemolysis: Heme consulted yesterday for haptoglobin <20, increased t
   bili, 2+ schistocytes on peripheral smear, hct steadily dropping since
   admission, thrombocytopenia, increased LDH.  Considered TTP with plasma
   pheresis treatment but low fibrinogen and FDP inconsistent.  [**Month (only) 11**] be
   smoldering DIC.  Cryoprecipitate give yesterday for fibrinogen of 87,
   which improved to 140.  Fibrinogen 101 this AM.
   - f/u heme/onc recs
   - monitor fibrinogen q6 and give cryo if <100
   - transfuse to goal of hct>21
   .
   # Thrombocytopenia
 platelets have decreased from admission. Heparin
   d/c
d with mild improvement in plt from 70 ->90.  HIT antibody
   negative.  Does not fit TTP picture as patient has normal renal
   functions.
   - f/u plt and monitor for bleeding, transfuse platelets for goal of plt
   > 20
   - pneumoboots
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  LFTs still
   elevated but decreased from yesterday. ERCP fellow following
   peripherally
   - s/p 7 day course of levo
   -Trend LFTs
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   - stable per outpt oncologist
   - discontinue fentanyl patch
   - oxycodone 5mg prn breakthrough
   .
   # mental status change
 patient is not at his baseline since coming
   off ventilator.  Is more somnolent, less responsive.  AMS likely due to
   toxic metabolic etiology
   .
   # Nutrition
   - restart patient on tube feeds as pt now has NG tube
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-24**] 02:45 AM 20 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-20**] 06:48 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2125-06-26 09:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, c diff colitis, DIC, anemia,
   thrombocytopenia, hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Fibrinogen down yesterday and cryoprecipitate given.
   Mental status still confused. Head CT negative for acute processes.
   Diursed with negative fluid balance by 1.8 L.
   BP stable post extubation without need for vasopressors.
   HIT antibody negative.
   Hct drifting down slowly.
   Creat stable.
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2125-6-25**] 12:15 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-6-25**] 08:30 PM
   Metoprolol - [**2125-6-26**] 04:15 AM
   Other medications:
   Fentanyl patch
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-26**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.4
C (97.5
   HR: 109 (106 - 165) bpm
   BP: 87/67(76) {87/55(68) - 128/94(107)} mmHg
   RR: 23 (14 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,667 mL
                                                                    390 mL
   PO:
             TF:
   IVF:
                                                                  1,417 mL
                                                                    310 mL
   Blood products:
                                                                    150 mL
   Total out:
                                                                  3,540 mL
                                                                  2,460 mL
   Urine:
                                                                  3,540 mL
                                                                  2,360 mL
   NG:
   Stool:
   100 mL
   Drains:
   Balance:
                                                                 -1,873 mL
                                                                 -2,070 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 565 (565 - 565) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: 7.55/29/91/26/3
   Ve: 11.6 L/min
   PaO2 / FiO2: 260
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale,
   No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral, No(t) Crackles : , No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ edema, Left: 2+
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.1 g/dL
   45 K/uL
   101 mg/dL
   0.9 mg/dL
   26 mEq/L
   3.4 mEq/L
   25 mg/dL
   107 mEq/L
   145 mEq/L
   23.5 %
   14.4 K/uL
        [image002.jpg]
                             [**2125-6-24**]  08:47 AM
                             [**2125-6-24**]  01:11 PM
                             [**2125-6-24**]  02:42 PM
                             [**2125-6-24**]  03:20 PM
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
                             [**2125-6-25**]  02:36 PM
                             [**2125-6-25**]  05:59 PM
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
   WBC
   12.8
   12.5
   16.3
   15.3
   14.4
   Hct
   26.4
   23.9
   25.7
   24.4
   23.5
   Plt
   79
   72
   55
   49
   45
   Cr
   0.9
   0.9
   0.9
   TCO2
   28
   27
   29
   26
   Glucose
   98
   102
   101
   Other labs: PT / PTT / INR:18.3/37.2/1.7, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:321/4.5, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, Fibrinogen:101 mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.5 g/dL,
   LDH:626 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR: bialteral haziness, likely secondary to effusions (supine
   film); appears worse than yesterday, but previous film was upright,
   which would minimize effect of effusions compared to supine film.
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   ====================
   Patient's breathing appears to be the most comfortable we have seen
   since admission. Oxygenation is excellent on minimal supplementation.
   Continue to maintain negative fluid balance; goal today 0.5-1.0 L
   negative.
   Blood pressure trending down, but mental status is a bit better today.
   Renal function stable. Will stop fentanyl patch.
   Platelet count and hct trending down. Fibrinogen again trending down;
   will likely need additional cryoprecipitate. Will transfuse RBCs today.
   No apparent bleeding. Not at transfusion threshold for platelets yet.
   Afebrile. Completing course of antibiotics.
   Restart tube feedings.
   ICU Care
   Nutrition: Stqrt tube feedings.
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   18 Gauge - [**2125-6-20**] 06:48 AM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-27 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Decreased to metoprolol 5mg IV q6h due to pressures being low
   -Goal: 500cc-1L negative for day--> reached negative 2L at 1645. Lasix
   drip dc'd due to 6 second episode of SVT with HR ~200 (EKG unchanged
   from prior) - lasix to be restarted [**6-27**] pending volume status.
   negative 2.5L at midnight. Gave 500cc bolus for HR persistently in 130s
   --> decrease to 120s.
   -transfused 1U PRBCs for Hct 23.5 --> 27.7
   -Transfused 1U cryoprecipitate for Fibrinogen 101 --> 116
   -Transfused 2U cryoprecipitate for fibrinogen 64 --> 170
   -on [**6-27**]: call outpt Hem/Onc [**First Name5 (NamePattern1) 1738**] [**Last Name (NamePattern1) 7551**] [**Telephone/Fax (1) 7692**] to get last CEA.
   (Hem/Onc may do call - t/b w/ them before calling)
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-6-26**] 09:00 AM
   Metoprolol - [**2125-6-27**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-27**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98
   HR: 114 (109 - 139) bpm
   BP: 122/78(94) {80/57(71) - 135/85(102)} mmHg
   RR: 26 (15 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
           Total In:
                                                                  1,460 mL
                                                                  1,018 mL
   PO:
           TF:
           56 mL
   IVF:
                                                                    790 mL
                                                                    602 mL
   Blood products:
                                                                    500 mL
                                                                    300 mL
   Total out:
                                                                  3,990 mL
                                                                    250 mL
   Urine:
                                                                  3,890 mL
                                                                    250 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -2,530 mL
                                                                    768 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General: NAD, appears tired, responsive to questions, follows simple
   commands, NG tube in place
   Lungs: diffuse crackles bilaterally
   CV: Sinus tachycardia, regular rhythm, S3 gallop
   Abdomen: soft, nt/nd +BS
   Ext: cool with bilateral toe cyanosis and delayed cap refill,  1+ PT/DP
   pulses, R arm with 3+ pitting edema, L arm with 2+ pitting edema, legs
   without edema
   Labs / Radiology
   35 K/uL
   8.8 g/dL
   112 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   108 mEq/L
   145 mEq/L
   26.4 %
   18.8 K/uL
        [image002.jpg]
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
                             [**2125-6-25**]  02:36 PM
                             [**2125-6-25**]  05:59 PM
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
                             [**2125-6-26**]  10:06 AM
                             [**2125-6-26**]  04:59 PM
                             [**2125-6-26**]  11:10 PM
                             [**2125-6-27**]  03:55 AM
   WBC
   12.5
   16.3
   15.3
   14.4
   13.8
   16.6
   19.8
   18.8
   Hct
   23.9
   25.7
   24.4
   23.5
   24.7
   27.7
   28.3
   26.4
   Plt
   72
   55
   49
   45
   44
   46
   38
   35
   Cr
   0.9
   0.9
   0.9
   0.8
   TCO2
   29
   26
   Glucose
   102
   101
   110
   112
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:314/5.8, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:170 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:752 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2
   mg/dL
   .
   ADAMTS13 68
   CEA 1746
   CRP 69.8
   .
   E. Coli 0157:H7
 negative
   MRSA screen
 pending
Resp culture
 oropharygeal flora absent.  Sparse yeast growth
   BCx
 pending
   CXR
  Unchanged from yesterday, appears that bilateral effusions are
   layering out
   Assessment and Plan
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hemolysis: Pt currently in DIC with unknown cause.  Heme following.
   Considered TTP but low fibrinogen and FDP inconsistent as well as
   ADAMTS13 68.  s/p 3 units of cryoprecipitate yesterday for
   fibrinogen<100. Toe cyanosis noted yesterday with concern for septic
   emboli or clots but DPs intact
   - f/u heme/onc recs
   - t/b with heme re: role of heparin treatment
   - monitor fibrinogen q6 and give cryo if <100
   - transfuse to goal of hct>21
   .
   # Thrombocytopenia
 Platelets have been decreasing since admission.
   HIT antibody negative.  Does not fit TTP picture as patient has normal
   renal functions.
   - f/u plt and monitor for bleeding, transfuse platelets for goal of plt
   > 20
   - pneumoboots
   .
   # Delirium
 Patient is currently non-verbal and minimally follows
   commands.  Able to track with his eyes and occasionally nods yes or
   no.  Had neg head CT two days ago but no change in mental status since
   coming off the vent.  AMS may be due to toxic metabolic etiology,
   infection, meds, mini DIC emboli or underlying cancer.  Toxic metabolic
   unlikely and cx have been neg since positive admission urine cx.  Will
   reculture today and plan for MRI today to help evaluate picture.
   -f/u MRI head
   .
   #Leukocytosis
 Unclear etiology. Pt has been C diff negative here but
   was positive at OSH. Diarrhea has been improving. Pt with E. Coli UTI
   on admission but cleared on [**6-22**] urine cx.   Will pan-cx again and
   change Foley to condom cath.  Sending CRP to help with eval as well.
   Now has stage 2 pressure ulcer on back but does not appear infected.
   - continue PO vancomycin on strong suspicion of C diff
   - f/u blood, urine and sputum cx
   - Foley to condom cath
   .
   # Hypotension
 Improved after decreasing metoprolol yesterday.  Will
   closely monitor BP as we continue to try and diurese pt due to volume
   overload.
   - continue to monitor
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.  Off lasix
   drip, plan to do lasix boluses to achieve goal below.
   - diuresis to goal of -500cc-1L today, making sure that patient does
   not get more hypotensive.
   .
   # Tachycardia: Questionable short run of Vtach yesterday that
   spontaneously resolved.  Otherwise tachy most likely due to SVT,
   intravascular volume depletion.
   - continue to monitor
   - replete lytes as needed
   .
   # Hypoxia/Resp Distress
 Resolved.  Extubated 2 days ago with good
   sats on RA.  Will monitor closely for signs of respiratory distress.
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  LFTs remain
   elevated. ERCP fellow following peripherally
   - s/p 7 day course of levo
   -Trend LFTs, continue monitoring
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   CEA here 1746 and per wife, highest value previously was 800.
   -heme/onc following and discussing with outpt onc
   - stable per outpt oncologist
   - discontinue fentanyl patch
   - oxycodone 5mg prn breakthrough
   .
   # FEN: TFs, replete lytes, lasix boluses for goal -500cc over 24 hours
   .
   # Goals of care: Plan for family meeting today with heme/onc to discuss
   goals of care.  Pallative care consulted.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-27**] 04:33 AM 20 mL/hour
   Glycemic Control:  monitoring
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-06-27 10:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, c diff colitis, DIC ,
   enceophalopathy, anemia, thromboctophenia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient had run of probable Vtach yesterday, Lasix infusion stopped.
   Fluid balance negative by 2.5L for the day. Oxygen sats excellent with
   nasal O2 supplementation.
   Patient awake but interactions with staff remain limited.
   Patient received additional cryoprecipitate yesterday.
   Bilirubin elevated along with LDH.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2125-6-25**] 12:00 AM
   Metronidazole - [**2125-6-25**] 05:45 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2125-6-27**] 03:30 AM
   Famotidine (Pepcid) - [**2125-6-27**] 08:04 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-27**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 120 (109 - 139) bpm
   BP: 107/74(89) {80/57(71) - 135/85(102)} mmHg
   RR: 26 (18 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
           Total In:
                                                                  1,460 mL
                                                                  1,328 mL
   PO:
           TF:
           120 mL
   IVF:
                                                                    790 mL
                                                                    748 mL
   Blood products:
                                                                    500 mL
                                                                    300 mL
   Total out:
                                                                  3,990 mL
                                                                    293 mL
   Urine:
                                                                  3,890 mL
                                                                    293 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                 -2,530 mL
                                                                  1,035 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, +NG
   tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t) Wheezes :
   , Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: 2+ arms, Left: 2+ arms, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, No(t) Follows simple commands, Responds to:
   Verbal stimuli, No(t) Oriented (to): , Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   35 K/uL
   112 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   108 mEq/L
   145 mEq/L
   26.4 %
   18.8 K/uL
        [image002.jpg]
                             [**2125-6-24**]  08:53 PM
                             [**2125-6-25**]  04:38 AM
                             [**2125-6-25**]  02:36 PM
                             [**2125-6-25**]  05:59 PM
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
                             [**2125-6-26**]  10:06 AM
                             [**2125-6-26**]  04:59 PM
                             [**2125-6-26**]  11:10 PM
                             [**2125-6-27**]  03:55 AM
   WBC
   12.5
   16.3
   15.3
   14.4
   13.8
   16.6
   19.8
   18.8
   Hct
   23.9
   25.7
   24.4
   23.5
   24.7
   27.7
   28.3
   26.4
   Plt
   72
   55
   49
   45
   44
   46
   38
   35
   Cr
   0.9
   0.9
   0.9
   0.8
   TCO2
   29
   26
   Glucose
   102
   101
   110
   112
   Other labs: PT / PTT / INR:17.1/32.7/1.5, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:314/5.8, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:[**Numeric Identifier 4697**] ng/mL, Fibrinogen:170 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:752 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   DIC
   ANEMIA
   ============================
   Respiratory status stable. Will try off of supplemental oxygen today.
   Continue to maintain negative fluid balance, goal of 0.5-1.0 L today.
   Hemodynamically stable. Short run of probable Vtach yesterday (started
   with apparent fusion beat), likely related to electrolyte deficiency.
   Potassium being repleted.
   Patient remains non-communicative although nods head in an appropriate
   way intermittently. Tracks to voice. Fentanyl patch removed yesterday.
   He is not receiving sedation. No evidence of seizure activity. Will
   obtain MRI today. Concern with DIC whether he may be having
   mico-clotting in brain. Will ask heme consult to comment on possible
   heparin therapy.
   Patient afebrile but WBC rising. Checking cultures.
   Hct down slightly today. Hemolysis seems to be ongoing with rising bili
   and LDH.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2125-6-27**] 04:33 AM 30 mL/hour
   Glycemic Control:  In good range
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-06-28 07:27:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - family meeting: plan to take patient home tomorrow with hospice
   - pallative care consulted
   - MRI head: cancelled
   - rechecked CEA to reassure wife, still elevated ([**2082**])
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-6-27**] 08:04 AM
   Metoprolol - [**2125-6-27**] 10:30 AM
   Furosemide (Lasix) - [**2125-6-27**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-28**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 138 (120 - 152) bpm
   BP: 108/74(87) {91/62(73) - 128/80(97)} mmHg
   RR: 31 (13 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
             Total In:
                                                                  1,540 mL
                                                                     72 mL
   PO:
             TF:
                                                                    190 mL
   IVF:
                                                                    890 mL
                                                                     72 mL
   Blood products:
                                                                    300 mL
   Total out:
                                                                  1,043 mL
                                                                    160 mL
   Urine:
                                                                  1,043 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    497 mL
                                                                    -88 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   29 K/uL
   9.2 g/dL
   112 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   30 mg/dL
   108 mEq/L
   145 mEq/L
   28.2 %
   22.9 K/uL
        [image002.jpg]
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
                             [**2125-6-26**]  10:06 AM
                             [**2125-6-26**]  04:59 PM
                             [**2125-6-26**]  11:10 PM
                             [**2125-6-27**]  03:55 AM
                             [**2125-6-27**]  10:22 AM
                             [**2125-6-27**]  03:42 PM
                             [**2125-6-27**]  09:51 PM
                             [**2125-6-28**]  06:15 AM
   WBC
   15.3
   14.4
   13.8
   16.6
   19.8
   18.8
   19.2
   18.5
   20.8
   22.9
   Hct
   24.4
   23.5
   24.7
   27.7
   28.3
   26.4
   27.6
   26.7
   26.9
   28.2
   Plt
   49
   45
   44
   46
   38
   35
   30
   33
   28
   29
   Cr
   0.9
   0.9
   0.8
   Glucose
   101
   110
   112
   Other labs: PT / PTT / INR:18.9/34.5/1.7, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:314/5.8, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:8708 ng/mL, Fibrinogen:99 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:851 IU/L, Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2
   mg/dL
   CEA - [**2082**]
   E. coli 0157:H7
 negative
   BCx, Ucx
 pending, NGTD
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   64 y/o M with PMHx of stage IV colon adenocarcinoma who presented with
   leukocytosis, abnormal LFTs and diffuse Cdiff positive diarrhea.
   .
   # Hemolysis: Pt currently in DIC with unknown cause, likely due to
   metastatic colon cancer.  Pt has consistently low fibrinogen and FDP
   requiring cryoprecipitate.  Heme is following.  Suspicions for TTP is
   lower with ADAMTS13 being 68.  Toe cyanosis noted, concerns for septic
   emboli or clots but DPs intact
   - f/u heme/onc recs
   - monitor fibrinogen q6 and give cryo if <100
   - transfuse to goal of hct>21
   .
   # Thrombocytopenia
 Platelets have been decreasing since admission,
   likely due to DIC. HIT antibody negative.  Does not fit TTP picture as
   patient has normal renal functions and ADAMTS13 is low normal
   - f/u plt and monitor for bleeding, transfuse platelets for goal of plt
   > 20
   - pneumoboots
   .
   # Delirium
 Patient is currently non-verbal and minimally follows
   commands.  Able to track with his eyes and occasionally nods yes or
   no.  Had neg head CT two days ago but no change in mental status since
   coming off the vent.  AMS may be due to toxic metabolic etiology,
   infection, meds, mini DIC emboli or underlying cancer.  Toxic metabolic
   unlikely and cx have been neg since positive admission urine cx.
   - continue to monitor mental status
   .
   #Leukocytosis
 Unclear etiology. Pt has been C diff negative here but
   was positive at OSH. Diarrhea has been improving. Pt with E. Coli UTI
   on admission but cleared on [**6-22**] urine cx.   Sending CRP to help with
   eval as well.  Now has stage 2 pressure ulcer on back but does not
   appear infected.
   - continue PO vancomycin on strong suspicion of C diff
   - f/u blood, urine and sputum cx
   .
   # Hypotension
 Improved after decreasing metoprolol yesterday.  Will
   closely monitor BP as we continue to try and diurese pt due to volume
   overload.
   - continue to monitor
   .
   # Fluid Overload/UE edema
 Pt with b/l UE edema, R>L. It is in
   dependent areas and is most likely from his fluid overload.  Off lasix
   drip, plan to do lasix boluses to achieve goal below.
   - diuresis to goal of -500cc-1L today, making sure that patient does
   not get more hypotensive.
   .
   # Tachycardia: Questionable short run of Vtach yesterday that
   spontaneously resolved.  Otherwise tachy most likely due to SVT,
   intravascular volume depletion.
   - continue to monitor
   - replete lytes as needed
   .
   # Hypoxia/Resp Distress
 Resolved.  Extubated 2 days ago with good
   sats on RA.  Will monitor closely for signs of respiratory distress.
   .
   # Obstructive cholestasis: s/p ERCP with stent replaced.  LFTs remain
   elevated. ERCP fellow following peripherally
   - s/p 7 day course of levo
   -Trend LFTs, continue monitoring
   .
   # Metastatic Adenocarcinoma: Pt with stage IV adenocarcinoma currently
   receiving palliative chemo from Dr [**Last Name (STitle) 7551**], last dose approx 4wks ago.
   CEA here [**2083**] and per wife, highest value previously was 800.
   -heme/onc following and discussing with outpt onc
   - stable per outpt oncologist
   - discontinue fentanyl patch
   - oxycodone 5mg prn breakthrough
   .
   # FEN: TFs, replete lytes, lasix boluses for goal -500cc over 24 hours
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT: p-boots
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: d/c home on hospice

2125-06-28 10:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, c diff colitis, thrombocytopenia,
   DIC, altered mental status
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient given cryoprecipitate last night for low fibrinogen.
   This morning, family has expressed desire to have focus of care be
   comfort measures only.
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   Penicillins
   Unknown;
   Latex
   Rash;
   Last dose of Antibiotics:
   Vancomycin - [**2125-6-27**] 02:00 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2125-6-27**] 11:00 AM
   Famotidine (Pepcid) - [**2125-6-28**] 08:00 AM
   Morphine Sulfate - [**2125-6-28**] 09:49 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-6-28**] 10:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 148 (124 - 154) bpm
   BP: 109/74(87) {91/62(73) - 119/77(94)} mmHg
   RR: 26 (13 - 35) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 84.8 kg (admission): 77.8 kg
   Height: 72 Inch
           Total In:
                                                                  1,540 mL
                                                                    229 mL
   PO:
           TF:
                                                                    190 mL
   IVF:
                                                                    890 mL
                                                                    106 mL
   Blood products:
                                                                    300 mL
                                                                    123 mL
   Total out:
                                                                  1,043 mL
                                                                    220 mL
   Urine:
                                                                  1,043 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    497 mL
                                                                      9 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///24/
   Physical Examination
   General Appearance: Patient unresponsive.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   29 K/uL
   112 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.1 mEq/L
   43 mg/dL
   111 mEq/L
   149 mEq/L
   28.2 %
   22.9 K/uL
        [image002.jpg]
                             [**2125-6-25**]  08:05 PM
                             [**2125-6-26**]  03:41 AM
                             [**2125-6-26**]  10:06 AM
                             [**2125-6-26**]  04:59 PM
                             [**2125-6-26**]  11:10 PM
                             [**2125-6-27**]  03:55 AM
                             [**2125-6-27**]  10:22 AM
                             [**2125-6-27**]  03:42 PM
                             [**2125-6-27**]  09:51 PM
                             [**2125-6-28**]  06:15 AM
   WBC
   15.3
   14.4
   13.8
   16.6
   19.8
   18.8
   19.2
   18.5
   20.8
   22.9
   Hct
   24.4
   23.5
   24.7
   27.7
   28.3
   26.4
   27.6
   26.7
   26.9
   28.2
   Plt
   49
   45
   44
   46
   38
   35
   30
   33
   28
   29
   Cr
   0.9
   0.9
   0.8
   0.9
   Glucose
   101
   110
   112
   112
   Other labs: PT / PTT / INR:19.4/34.5/1.8, CK / CKMB / Troponin-T:42/3/,
   ALT / AST:9/33, Alk Phos / T Bili:314/5.8, Amylase / Lipase:23/23,
   Differential-Neuts:81.0 %, Band:6.0 %, Lymph:0.0 %, Mono:1.0 %, Eos:3.0
   %, D-dimer:8708 ng/mL, Fibrinogen:55 mg/dL, Lactic Acid:1.7 mmol/L,
   Albumin:2.5 g/dL, LDH:905 IU/L, Ca++:7.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.9
   mg/dL
   Assessment and Plan
 THROMBOTIC THROMBOCYTOPENIC PURPURA / HEMOLYTIC UREMIC SYNDROME
   (HUS/TTP)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 TACHYCARDIA, OTHER
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACIDOSIS, METABOLIC
   HYPERNATREMIA
   ========================
   Family wishes to take patient home for hospice care; arrangements have
   been made. Would give free water to reduce hyperatremia.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2125-6-18**] 05:40 PM
   Arterial Line - [**2125-6-22**] 10:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: 20 minutes